US05059597
b) 5-Methyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane dihydrochloride
A solution of 9.4 g (40 mmol) of 8-benzyl-5-methyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane in 150 ml of methanol and 7.4 ml of concentrated hydrochloric acid is hydrogenated on 3 g of palladium-on-active charcoal (10% of Pd) at 80° C. under 100 bar. The catalyst is filtered off with suction and the filtrate is concentrated. The residue is triturated with butanol/acetone 1:1 and the crystals are filtered off with suction and dried over P4O10 in a desiccator. The product is very hygroscopic.

reactant | 8-benzyl-5-methyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | 40 mmol, 9.4 g | C(C1=CC=CC=C1)N1CC2N(CCOC2C1)C | C14H20N2O
reactant | hydrochloric acid | 7.4 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium | 3 g | [Pd] | Pd
product | 5-Methyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane dihydrochloride | Cl.Cl.CN1CCOC2CNCC12 | InChI=1S/C7H14N2O.2ClH/c1-9-2-3-10-7-5-8-4-6(7)9;;/h6-8H,2-5H2,1H3;2*1H
